US05059597
d) 2,5-Dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane
13 g (60.6 mmol) of ethyl 2,5-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate are heated under reflux with 33 g of Ba(OH)2.8H2O in 330 ml of water overnight. The BaCO3 is filtered off with suction, K2CO3 is added to the filtrate, the solid is filtered off with suction again and the filtrate is extracted ten times with 100 ml of CHCl3 each time. The extracts are dried over K2CO3 and concentrated and the residue is distilled.

reactant | ethyl 2,5-dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane-7-carboxylate | 60.6 mmol, 13 g | CN1C2CN(CC2(CO1)C)C(=O)OCC | C10H18N2O3
solvent | water | 330 ml | O | H2O
product | 2,5-Dimethyl-3-oxa-2,7-diazabicyclo[3.3.0]octane | CN1C2CNCC2(CO1)C | C7H14N2O
